US09353075B2
Step 4. Preparation of (2R*,3R*)- and (2R*,3S*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoic acid
In a round-bottomed flask, the diastereomeric mixture containing (2R*,3R*)- and (2R*,3S*)-2-(tert-butoxy-carbonylamino)-3-hydroxy-4,4-dimethyl-pentanoate (0.4 g, 1.38 mmol) was dissolved in a 6.0 M HCl solution (30 mL). The resulting solution was divided into two equal aliquots and stirred at 130° C. for 1 h. All portions were joined and the reaction mixture extracted with Et2O (3×20 mL). The aqueous phase was concentrated under reduced pressure giving a yellowish solid crude product, as a diastereoisomeric mixture (anti:syn=9:1), which was used without further purification in the following step. MS (ESI) m/z: 162 [M−H]+; (ESI) m/z: 160 [M−H]−.

reactant | (2R*,3S*)-2-(tert-butoxy-carbonylamino)-3-hydroxy-4,4-dimethyl-pentanoate | 1.38 mmol, 0.4 g | C(C)(C)(C)OC(=O)N[C@@H](C(=O)[O-])[C@H](C(C)(C)C)O
solvent | HCl | 6.0 M, 30 mL | Cl | ClH
product | (2R*,3S*)-2-amino-3-hydroxy-4,4-dimethyl-pentanoic acid | N[C@@H](C(=O)O)[C@H](C(C)(C)C)O | C7H15NO3
